US05650510
Bromotrimethylsilane (2.77 g, 18.1 mmol) was added dropwise over 2 min to a solution of 9-(2'-(diethylphosphonomethoxy)ethyl)guanine (0.625 g, 1.80 mmol) in 15 mL of dry DMF at rt under argon in a foil-covered flask. The reaction mixture was stirred at rt for 4 h and then volatiles were removed in vacuo to give a viscous yellow oil. The residue was treated with 5 mL of water, giving immediate formation of a white solid. 5 mL more water was added, followed by 10 mL of acetone; the precipitate was collected by filtration. The crude product was purified by recrystallization from water/ethanol to give 0.483 g of 9-(2-(phosphonomethoxy)ethyl)guanine as white crystals, m.p. >260°.

reactant | Bromotrimethylsilane | 18.1 mmol, 2.77 g | Br[Si](C)(C)C | C3H9BrSi
reactant | 9-(2'-(diethylphosphonomethoxy)ethyl)guanine | 1.80 mmol, 0.625 g | C(C)OP(=O)(OCC)COCCN1C=2N=C(NC(C2N=C1)=O)N | C12H20N5O5P
reactant | water | 5 mL | O | H2O
reactant | water | 5 mL | O | H2O
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 9-(2-(phosphonomethoxy)ethyl)guanine | 0.483 g | P(=O)(O)(O)COCCN1C=2N=C(NC(C2N=C1)=O)N | C8H12N5O5P
